US07718693B2
2-Chloro-3,4-difluorobenzamide (11.85 g, 62 mmol) was dissolved in tetrahydrofuran (200 ml) and treated with 1M borane tetrahydrofuran (247 ml, 247 mmol). The mixture was heated to 70° C. and stirred for 18 hrs. The mixture was then cooled in an ice-water bath and concentrated aqueous hydrogen chloride (150 ml) was added dropwise. Heating, with stirring, at 70° C. was then resumed for a further 2 hrs. The mixture was then allowed to cool and the solvent was evaporated in vacuo. The residue was partitioned between ethyl acetate (200 ml) and 2N aqueous hydrogen chloride (200 ml). The aqueous layer was separated and the pH was adjusted to 8-9 by dropwise addition of 5N aqueous sodium hydroxide. The resulting cloudy suspension was extracted with ethyl acetate (4×200 ml) and the combined organic extracts were then passed through a hydrophobic frit and reduced in volume to ˜200 ml. The mixture was then acidified by the addition of 1M ethereal hydrogen chloride (100 ml) resulting in formation of a precipitate. The solvent was evaporated in vacuo to give a white solid. The solid was recrystallised from methylated spirit (60 ml) to give three crops of pure [(2-chloro-3,4-difluorophenyl)methyl]amine hydrochloride (combined mass=4.46 g) as a white solid.

reactant | 2-Chloro-3,4-difluorobenzamide | 62 mmol, 11.85 g | ClC1=C(C(=O)N)C=CC(=C1F)F | C7H4ClF2NO
reactant | borane tetrahydrofuran | 247 mmol, 1M, 247 ml | O1CCCC1.B
reactant | hydrogen chloride | 150 ml | Cl | ClH
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | [(2-chloro-3,4-difluorophenyl)methyl]amine hydrochloride | 4.46 g | Cl.ClC1=C(C=CC(=C1F)F)CN | InChI=1S/C7H6ClF2N.ClH/c8-6-4(3-11)1-2-5(9)7(6)10;/h1-2H,3,11H2;1H
